US05366987
Synthesis of N-(2,4-difluorophenyl)-5-dodecyl-2H tetrazole-2-acetamide
When in the general procedure of Example 88 an appropriate amount of 5-dodecyl-2H-tetrazole-2-acetic acid was substituted for 5-decyl-2H-tetrazole-2-acetic acid and 2,4-difluoroaniline was substituted for 2,6-diisopropylaniline, the title compound was obtained, mp 103°-106° C.

reactant | 5-dodecyl-2H-tetrazole-2-acetic acid | C(CCCCCCCCCCC)C=1N=NN(N1)CC(=O)O | C15H28N4O2
reactant | 5-decyl-2H-tetrazole-2-acetic acid | C(CCCCCCCCC)C=1N=NN(N1)CC(=O)O | C13H24N4O2
reactant | 2,4-difluoroaniline | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | 2,6-diisopropylaniline | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
product | N-(2,4-difluorophenyl)-5-dodecyl-2H tetrazole-2-acetamide | FC1=C(C=CC(=C1)F)NC(CN1N=C(N=N1)CCCCCCCCCCCC)=O | C21H31F2N5O
